US07405300B2
2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde (2.55 g, 19.6 mmol), 4-(2-hydroxyethyl)-piperazine (1.00 g, 3.92 mmol) in dioxane (13 mL) is heated overnight at reflux. The cooled reaction is diluted with water and extracted with dichloromethane. The organic layer is dried, filtered and evaporated to a semi-solid that is triturated with ether to give the 2-[4-(2-hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde as a brownish solid. MS 350 (M+H).

reactant | 2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde | 19.6 mmol, 2.55 g | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
reactant | 4-(2-hydroxyethyl)-piperazine | 3.92 mmol, 1.00 g | OCCN1CCNCC1 | C6H14N2O
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde | OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C21H23N3O2
